### PR TITLE
Add set of lemmas for esum

### PR DESCRIPTION
**Pull request by lyonel2017**
##### Motivation for this change

Set of lemmas for `esum` extracted from #2049.

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/esum.v [hunk 1]
```diff
@@ -155,13 +155,51 @@ Lemma pos_esum_ge (T1 : choiceType) (I : set T1) (a : T1 -> \bar R) x :
...
 
-Lemma le_pos_esum S f g : (forall i, S i -> f i <= g i) ->
+Lemma pos_neq0_esum (I : set T) (a : T -> \bar R) :
+  \esum_(i in I) a i <> 0 -> exists i,  a i <> 0.
+Proof.
+move=> ?. apply/existsp_asboolPn /asboolPn => h.
+have // : (\esum_(i in I) a i = 0); by apply pos_esum1.
+Qed.
+
+Lemma pos_esum_ge1 (I : set T) (f: T -> \bar R) :
```
Comment (affeldt-aist) [inline theories/esum.v]:
```suggestion
Lemma pos_esum_ge1 (I : set T) (f : T -> \bar R) :
```

File: theories/esum.v [hunk 2]
```diff
@@ -155,13 +155,51 @@ Lemma pos_esum_ge (T1 : choiceType) (I : set T1) (a : T1 -> \bar R) x :
   x <= \esum_(i in I) a i.
 Proof. by move=> [X IX /le_trans->//]; apply: ereal_sup_ubound; exists X. Qed.
 
-Lemma le_pos_esum S f g : (forall i, S i -> f i <= g i) ->
+Lemma pos_neq0_esum (I : set T) (a : T -> \bar R) :
+  \esum_(i in I) a i <> 0 -> exists i,  a i <> 0.
```
Comment (affeldt-aist) [inline theories/esum.v]:
```suggestion
  \esum_(i in I) a i <> 0 -> exists i, a i <> 0.
```

File: theories/esum.v [hunk 3]
```diff
@@ -155,13 +155,51 @@ Lemma pos_esum_ge (T1 : choiceType) (I : set T1) (a : T1 -> \bar R) x :
...
+Lemma le_pos_esum {U : choiceType} (S: set U) (f g: U -> \bar R) : (forall i, S i -> f i <= g i) ->
   \esum_(i in S) f i <= \esum_(i in S) g i.
 Proof.
 move=> fg; rewrite ge_ereal_sup => //= _ [X [finX XS]] <-.
 by rewrite pos_esum_ge//; exists X => //; apply: lee_fsum => // t /XS /fg.
 Qed.
 
+Lemma le_pos_esum_fine {U : choiceType} (f: T -> U -> \bar R):
+  (forall x y, 0 <= f x y)%E ->
+  (\esum_(i in [set: U]) (fine (\esum_(x in [set: T]) f x i))%:E <=
```
Comment (affeldt-aist) [inline theories/esum.v]: Can't this be generalized to any `A : set U` and `B : set T`?

File: theories/esum.v [hunk 4]
```diff
@@ -361,6 +399,12 @@ rewrite /esum PosEsum.ge0_pos_esum_funepos// PosEsum.ge0_pos_esum_funeneg//.
 by rewrite sube0.
 Qed.
 
+Lemma esum_pos_esum S f : (forall x, S x -> 0 <= f x) ->
```
Comment (affeldt-aist) [inline theories/esum.v]: This lemma does not look necessary since it is essentially `ge0_esum`.

File: theories/esum.v [hunk 5]
```diff
@@ -385,13 +429,60 @@ Section esum_realType.
...
+Qed.
+
+(* Lemma le_esum S f g : (forall x, S x -> 0 <= f x) -> *)
+(*   (forall x, S x -> f x <= g x) -> *)
+(*   \esum_(x in S) f x <= \esum_(x in S) g x. *)
+(* Proof. *)
+(* move=> f0 leS; have g0 x : S x -> 0 <= g x. *)
+(*   by move=> /[dup] Ax /leS; apply: le_trans; exact: f0 Ax. *)
+(* by rewrite !ge0_esum// PosEsum.le_pos_esum. *)
+(* Qed. *)
```
Comment (affeldt-aist) [inline theories/esum.v]:
```suggestion
```

File: theories/esum.v [hunk 6]
```diff
@@ -483,6 +581,13 @@ Lemma esum_ge {R : realType} {T : choiceType} (I : set T) (f : T -> \bar R) x :
   x <= \esum_(i in I) f i.
 Proof. by move=> f0 If; rewrite ge0_esum// PosEsum.pos_esum_ge. Qed.
 
+Lemma esum_unit {R : realType} {T : choiceType} (f : T -> \bar R)  x :
+  \esum_(i in [set:T]) (if x == i then f i else 0) = f x.
+Proof.
+  rewrite esum_if_eq_op.
+  by rewrite esum_set1.
```
Comment (affeldt-aist) [inline theories/esum.v]:
```suggestion
rewrite esum_if_eq_op.
by rewrite esum_set1.
```

File: theories/esum.v [hunk 7]
```diff
@@ -493,6 +598,18 @@ exists [set x]; first by split => // t ->.
 by rewrite -esum_set1 esum_fset// => i ->; exact: f0.
 Qed.
 
+Lemma neq0_esum {R : realType} {T : choiceType} (I : set T) (a : T -> \bar R) :
+  \esum_(i in I) a i <> 0 -> exists i,  a i <> 0.
```
Comment (affeldt-aist) [inline theories/esum.v]:
```suggestion
  \esum_(i in I) a i <> 0 -> exists i, a i <> 0.
```

File: theories/esum.v [hunk 8]
```diff
@@ -493,6 +598,18 @@ exists [set x]; first by split => // t ->.
...
+Proof.
+move=> ?. apply/existsp_asboolPn /asboolPn => h.
+have // : (\esum_(i in I) a i = 0); by apply esum1.
+Qed.
+
+Lemma esum_ge1 {R : realType} {T : choiceType} (I : set T) (f: T -> \bar R) :
```
Comment (affeldt-aist) [inline theories/esum.v]:
```suggestion
Lemma esum_ge1 {R : realType} {T : choiceType} (I : set T) (f : T -> \bar R) :
```

File: theories/esum.v [hunk 9]
```diff
@@ -812,6 +945,50 @@ apply: PosEsum.le_pos_esum => t Dt.
...
+under eq_esum do rewrite abseM.
+by rewrite esumZ // lte_mul_pinfty //= abse_fin_num.
+Qed.
+
+Lemma summableZr D f c :
+c \is a fin_num -> summable D f -> summable D (fun x => f x * c).
+Proof. by move=> ??; apply/summable_muleC /summableZ. Qed.
+
+Lemma summableMl D f1 f2 :
+  (exists M, (forall x, D x -> `|f1 x| <= M) /\ M \is a fin_num) ->
```
Comment (affeldt-aist) [inline theories/esum.v]: Use `exists2` is often a good idea.

**Comment by affeldt-aist** [comment]
Sorry for the random, minor comments.
Yet, I am already concerned by the fact that we have `summable` defined both in `esum.v` and in `realsum.v`: we might want to distinguish one or the other by adding a small `e` or a small `r` in the identifier.

**Review by affeldt-aist — CHANGES_REQUESTED** [review]

**Comment by affeldt-aist** [comment]
I made a first pass. I have not yet looked at section `esum_summable`.
I'll complete this review asap.

Maybe we do not need `pos_neq0_esum`
(btw, let's keep the substring `pos_esum` in identifiers
so that we remember easily that we are inside the `PosEsum` module)
since it is not used and in fact the more general
version `neq0_esum` (rather: `esum_neq0`) does not require
non-negativity as an hypothesis
(so far, the rationale was to use the `PosEsum` module to hold
restricted versions of `esum` lemmas for non-negative functions).

`pos_sum_esum_ge`: we can suppress because this is really
just a special case of `pos_esum_ge` and is used only once.

`summable_muleC` is maybe not necessary since it is really
just `under eq_fun do rewrite muleC`

Pending:
`pos_esum_ge1`/`esum_ge1`: there might be a better name
(`_ge1` looks too much like `1 <= _`) but I have not idea yet

`esum_unit` does not mention `unit`, maybe `esum_if_eq_op_set1`
but the script is so short that maybe the lemma is not really useful

TODO: the changelog should mention that `le_esum` has been generalized

fyi: @strub

**Review by affeldt-aist — APPROVED** [review]
Thank you very much for having taken the time to sort out these lemmas!

I have generalized lemmas (e.g.,  eq_summable (now eq_esummable),
 le_summable (now le_esummable) to use {in D, f = g} instead of f =1 g, etc.).

`esummable_esumZ_pos` is not a `Let`: it is used to prove a more general lemma.

I have added `esummable_esum_funeneg` since we have its counterpart.

`esum_posneg` has been renamed `esumE` and used to simplify
proof (by not making appeared the "positive" version).

I also used the new lemmas to simplify a bit `realsum.v`.

I have not yet checked whether `le_esum_fine` and `le_pos_esum_fine` 
are really useful but we will use them in a future PR so we can defer this
discussion.

I haven't found a better name for `esum_ge1`.

Unless somebody jumps in (@strub , @t6s ?), we'll merge soon.
